US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{4-[2-(1-methyl-1H-imidazol-2-ylsulfanyl)-ethyl]-thiazol-2-yl}-urea (45 mg, 43%) was prepared from methanesulfonic acid 2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl ester (0.10 g, 0.22 mmol) and 1-methyl-1H-immidazole-2-thiol (0.04 g, 0.33 mmol) following the general procedure Z.

reactant | methanesulfonic acid 2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl ester | 0.22 mmol, 0.10 g | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCOS(=O)(=O)C)=O | C20H25N3O5S2
reactant | 1-methyl-1H-immidazole-2-thiol | 0.33 mmol, 0.04 g | CN1C(=NC=C1)S | C4H6N2S
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{4-[2-(1-methyl-1H-imidazol-2-ylsulfanyl)-ethyl]-thiazol-2-yl}-urea | 45 mg, 43% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=C(N1)CCSC=1N(C=CN1)C | C23H27N5O2S2
